US06518260B1
9.3. [[[(Phenylmethoxy)carbonyl]amino]phenyl-methyl]phosphinic acid
The process is performed according to the operating conditions described in 1.4., starting with 1 g (5.85 mmol) of (aminophenylmethyl)phosphinic acid and 1.17 g (6.86 mmol) of benzyl chloroformate. 1.6 g of product are recovered (yield=90%).

reactant | (aminophenylmethyl)phosphinic acid | 5.85 mmol, 1 g | NC(C1=CC=CC=C1)P(O)=O | C7H10NO2P
reactant | benzyl chloroformate | 6.86 mmol, 1.17 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | [[[(Phenylmethoxy)carbonyl]amino]phenyl-methyl]phosphinic acid | yield=90% | C1(=CC=CC=C1)COC(=O)NC(C1=CC=CC=C1)P(O)=O | C15H16NO4P
